### ISSUE TITLE
elaboration of `^` shouldn't try to put the arguments in the same type

### ISSUE THREAD

**Issue by fpvandoorn** [leanprover/lean4#2220]
### Description

The macro for the `^` notation for exponentiation is defined as
```lean
macro_rules | `($x ^ $y)   => `(binop% HPow.hPow $x $y)
```
However, the `binop%` elaborator tries to make the type of `x` and `y` the same, which is not desired for exponentiation.

### MWE

```lean
class NatCast (R : Type u) where
  natCast : Nat → R

instance [NatCast R] : CoeTail Nat R where coe := NatCast.natCast
instance [NatCast R] : CoeHTCT Nat R where coe := NatCast.natCast

axiom Real : Type
notation "ℝ" => Real

instance (n : Nat) : OfNat ℝ n := sorry

variable (a : ℝ)

instance natCast : NatCast ℝ where natCast n := sorry
instance : HPow ℝ Nat ℝ := sorry

set_option pp.all true


#check a ^ 4
-- @HPow.hPow.{0, 0, 0} Real Nat Real instHPowRealNat a (@OfNat.ofNat.{0} Nat 4 (instOfNatNat 4)) : Real

instance : HPow ℝ ℝ ℝ := sorry

#check a ^ 4
-- @HPow.hPow.{0, 0, 0} Real Real Real instHPowReal a (@OfNat.ofNat.{0} Real 4 (instOfNatReal 4)) : Real

#check a ^ (4 : Nat)
-- @HPow.hPow.{0, 0, 0} Real Real Real instHPowReal a (@NatCast.natCast.{0} Real natCast (@OfNat.ofNat.{0} Nat 4 (instOfNatNat 4))) : Real
```

The desired result is that all checks use the `instHPowRealNat` instance, i.e. that `4` is interpreted as a `Nat`.

### Additional Notes

Just removing `binop%` and replacing the macro with the following fixes the current issue, but it causes problems in other elaboration problems.
```lean
macro_rules | `($x ^ $y)   => `(HPow.hPow $x $y)
```

With this macro an example like the following fails.
```lean
example (n : Nat) := ∃ k, n = 2 ^ k -- fails to find any instance, needs to know the type of `k`
```

### Zulip Discussion

[link](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/!4.234085)

**Comment by gebner** [comment]
The idea is to have a default instance for `Pow` here:
```lean
macro_rules | `($x ^ $y) => `(HPow.hPow $x $y)

class Semiring (R : Type) extends Pow R Nat
instance : Semiring Nat where
@[default_instance high] instance [Semiring R] : Pow R Nat := inferInstance

example (n : Nat) := ∃ k, n = 2 ^ k -- works fine
```

(We have that instance in `Mathlib/Algebra/Group/Defs.lean` btw.)

**Comment by kmill** [comment]
@gebner A design I've been thinking about that would help with `HPow` and other sorts of functions that are more actions than operators would be to have a couple additional term elaborators that participate in the "`binop%`" algorithm. I don't think we actually want the algorithm to ignore both the arguments to `HPow`, but rather it should descend into the base of the exponent (and similarly in mathlib, we want it to descend into the second argument of `SMul`). In both cases, the acted-upon argument should have a type that's compatible with the whole arithmetic expression.

Here's a simple proposal for how to handle this: add `actionop1%` and `actionop2%` term elaborators with the syntax `actionop1% f lhs rhs` and `actionop2% f lhs rhs` such that they behave like `unop% (fun x => f x rhs) lhs` and `unop% (fun x => f lhs x) rhs` repsecitively. Then we would have
```
macro_rules | `($x ^ $y)   => `(actionop1% HPow.hPow $x $y)
```
The effect is that `x` would still be coerced to the common type that the elaborator solves for, but `y` will be left untouched, letting it remain a `Nat` for example even in a `Real` expression.

Another design would be to adjust `unop%` to allow these lambdas and to do beta-reduced application. Then we'd have
```
macro_rules | `($x ^ $y)   => `(unop% (fun x' => HPow.hPow x' $y) $x)
```

**Comment by kmill** [comment]
I have a prototype of my suggestion at https://gist.github.com/kmill/bc58941368cc60738f3c932fe2546c9d

With it, we can see the following behavior:
```lean
import Mathlib.binop2
import Mathlib.Data.Real.Basic

#check (3 : ℝ) ^ 2
-- 3 is real
-- 2 is a nat

#check (1 : ℝ) + 3 ^ 2
-- 1 is real
-- 3 is real
-- 2 is a nat

#check (1 + 3 ^ 2 : ℝ)
-- 1 is real
-- 3 is real
-- 2 is a nat
```
In particular, exponentiation is modeled as a right action, and only the LHS participates in the coercion protocol.

We'll see how it works in practice in some mathlib files, and then if it seems good I'll create a PR. I think it only involves adding about 15 lines.

**Comment by kbuzzard** [comment]
An undergraduate just ran into this issue: they had a working file, and then added an import, and a `simp only` call which was closing a goal stopped working. I told them to add ``local macro_rules | `($x ^ $y) => `(HPow.hPow $x $y)`` to the top of their file; this fixed it.

```lean
import Mathlib.RingTheory.RootsOfUnity.Basic
import Mathlib.Data.Complex.Basic
-- uncomment this import to break the proof
--import Mathlib.Analysis.SpecialFunctions.Pow.Complex

-- uncomment this hack to fix it again
--local macro_rules | `($x ^ $y) => `(HPow.hPow $x $y)

example (q : ℕ+) : ζ ∈ rootsOfUnity q ℂ ↔ ((ζ : ℂˣ) : ℂ) ^ ((q : ℕ+) : ℕ) = 1 := by
  simp only [mem_rootsOfUnity']
  done
```

**Comment by b-mehta** [comment]
The solution of adding `local macro_rules | `($x ^ $y) => `(HPow.hPow $x $y)` can change elaboration in weird ways however, see for instance
```
import Mathlib.Analysis.SpecialFunctions.Pow.Real

-- local macro_rules | `($x ^ $y) => `(HPow.hPow $x $y)

lemma foo (t : ℝ) (ht : 3 ≤ t) : 12 * t + 1 ≤ 13 * t ^ 2 := sorry
```
in which uncommenting the macro changes the elaboration of `12` (and in my case also broke a proof)

**Comment by kmill** [comment]
https://github.com/leanprover-community/mathlib4/pull/6852 has a large-scale experiment with my modifications to the `binop%` elaborator. It switches to marking `HPow` as a right action and mathlib's `HSMul` as a left action. It took some tweaking of type ascriptions, but overall it seems to be an improvement (it seems you can usually just delete the `local macro_rules` fixes!)

In Bhavik's example, the conclusion elaborates as `(12 : ℝ) * t + (1 : ℝ) ≤ (13 : ℝ) * t ^ (2 : ℕ)`. (To be clear, as `OfNat` literals, not as coerced literals.)
